US08865682B2
To 30 mL of 1,4-dioxane were added (3E)-3-(4-bromo-5,5-dimethylfuran-2(5H)-ylidene)-6-fluoro-1,3-dihydro-2H-indol-2-one (600 mg, 1.85 mmol), 5-formylthiophene-3-boronic acid (348 mg, 2.23 mmol), PdCl2(PPh3)2 (60 mg, 0.085 mmol), 1M Na2CO3 aqueous solution (7.4 mL, 7.4 mmol). The mixture was heated at 80° C. under N2 for 3.5 hours, cooled to room temperature and poured into 200 mL of water. The mixture was extracted with EtOAc (3×80 mL). The organic layers were combined, washed with brine (50 mL), dried over Na2SO4, and concentrated to give the crude product, which was purified through silica gel column with 1-5% MeOH/CHCl3 to give 4-[(5E)-5-(6-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]thiophene-2-carbaldehyde as brown solid. Yield: 458 mg, 70%.

reactant | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
reactant | (3E)-3-(4-bromo-5,5-dimethylfuran-2(5H)-ylidene)-6-fluoro-1,3-dihydro-2H-indol-2-one | 1.85 mmol, 600 mg | BrC1=C/C(/OC1(C)C)=C/1\C(NC2=CC(=CC=C12)F)=O | C14H11BrFNO2
reactant | 5-formylthiophene-3-boronic acid | 2.23 mmol, 348 mg | C(=O)C1=CC(=CS1)B(O)O | C5H5BO3S
reactant | Na2CO3 | 7.4 mmol, 1M, 7.4 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | PdCl2(PPh3)2 | 0.085 mmol, 60 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 200 mL | O | H2O
product | 4-[(5E)-5-(6-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]thiophene-2-carbaldehyde | FC1=CC=C2/C(/C(NC2=C1)=O)=C\1/C=C(C(O1)(C)C)C=1C=C(SC1)C=O | C19H14FNO3S
